US04144338
Sodium hydride (6 g., 55%, 0.137 mole) is added to a mixture of 2-amino-4,6-dimethyl-5-chloropyrimidine (19.5 g., 0.125 mole) in 250 ml of toluene. The mixture, under a nitrogen atmosphere is heated to reflux and stirred for one hour. Another portion of sodium hydride (6 g., 55%, 0.137 mole) is added and after two hours of reflux, dimethyl carbamoyl chloride (13.9 g., 0.125 mole) is added. After one hours of reflux the reaction is cooled, water is added, the toluene is removed by vacuum concentration and the product is extracted into petroleum ether from which it is crystallized by evaporation. N,N-Dimethyl-N'-(4,6-dimethyl-5-chloro-2-pyrimidinyl)urea melting at 127°-129° C. is obtained.

reactant | Sodium hydride | 0.137 mole, 6 g | [H-].[Na+]
reactant | 2-amino-4,6-dimethyl-5-chloropyrimidine | 0.125 mole, 19.5 g | NC1=NC(=C(C(=N1)C)Cl)C | C6H8ClN3
reactant | sodium hydride | 0.137 mole, 6 g | [H-].[Na+]
reactant | dimethyl carbamoyl chloride | 0.125 mole, 13.9 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | water | O | H2O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-Dimethyl-N'-(4,6-dimethyl-5-chloro-2-pyrimidinyl)urea | CN(C(=O)NC1=NC(=C(C(=N1)C)Cl)C)C | C9H13ClN4O
